US04101658
To a solution of diphenylmethyl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate (155 mg) in tetrahydrofuran (15 ml) is added a solution of carbethoxymethylhydrazine hydrochloride (69 mg) in water (2.5 ml), and the mixture is kept at room temperature for 2 days. The crystals obtained by concentration of the reaction mixture are collected by filtration, washed with ether and water, and dried to give diphenylmethyl 7-(2-thienylacetamido)-3-(2-carbethoxymethylhydrazono)methyl-3-cephem-4-carboxylate (129 mg). m.p. 70°-75° C. Yield: 69%. IR: νmaxNujol 3270, 1780, 1745, 1670; 1540cm-1. NMR: δd 6-DMSO (60MHz) 1.435 (6Hz) 3H, 3.52ABq (24; 17Hz) 2H, 3.48s2H, 3.60s2H, 4.17 quintet (6Hz) 2H, 4.95d(5Hz)1H, 5.70dd(8;4Hz)1H, 6.67-7.63m16H, 8.03s1H. [ α]D24.5 - 144° (c=0.340, CHCl3).

reactant | diphenylmethyl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate | 155 mg | C(=O)C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H22N2O5S2
reactant | carbethoxymethylhydrazine hydrochloride | 69 mg | Cl.C(=O)(OCC)CNN
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
product | diphenylmethyl 7-(2-thienylacetamido)-3-(2-carbethoxymethylhydrazono)methyl-3-cephem-4-carboxylate | 129 mg, Yield: 69% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=NNCC(=O)OCC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H30N4O6S2
